US04518597
7-Chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 7-chloro-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-(4-methylphenylmercapto)-butylchloride.

reactant | 7-chloro-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(C(OC(N2)=O)(C)C)C=C1O | C10H10ClNO3
reactant | 4-(4-methylphenylmercapto)-butylchloride | CC1=CC=C(C=C1)SCCCCCl | C11H15ClS
product | 7-Chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(C(OC(N2)=O)(C)C)C=C1OCCCCSC1=CC=C(C=C1)C | C21H24ClNO3S
